US07037938B2
To a suspension of 2-[4-[(4-methoxyphenyl)thio]phenyl]-ethanamine (6.3 g) in methanol (45 ml) and tetrahydrofuran (10 ml) was added ethyl trifluoroacetate (2.89 ml), and the mixture was stirred at room temperature for 1 hour. The mixture was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=2/1) to give 2,2,2-trifluoro-N-[2-[4-[(4-methoxyphenyl)thio]phenyl]ethyl]acetamide (3.95 g).

reactant | 2-[4-[(4-methoxyphenyl)thio]phenyl]-ethanamine | 6.3 g | COC1=CC=C(C=C1)SC1=CC=C(C=C1)CCN | C15H17NOS
reactant | ethyl trifluoroacetate | 2.89 ml | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | methanol | 45 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2,2,2-trifluoro-N-[2-[4-[(4-methoxyphenyl)thio]phenyl]ethyl]acetamide | 3.95 g | FC(C(=O)NCCC1=CC=C(C=C1)SC1=CC=C(C=C1)OC)(F)F | C17H16F3NO2S
